US05204473
Di-(1-cyclohexyloxy-2,2,6,6-tetramethylpiperidin-4-yl) Isophthalate
A solution of 34.2 g of di-(1-oxyl-2,2,6,6-tetramethylpiperidin-4-yl) isophthalate and 54 ml of di-tert-butyl peroxide in 250 ml of cyclohexane is heated for 22 hours in a nitrogen atmosphere in a Fisher-Porter bottle (bath temperature of 140° C.). Solvent is evaporated under reduced pressure. The product is recrystallized from pentane to give a white solid, mp 140°-42° C.

reactant | di-(1-oxyl-2,2,6,6-tetramethylpiperidin-4-yl) isophthalate | 34.2 g | C(C1=CC(C(=O)OC2CC(N(C(C2)(C)C)O)(C)C)=CC=C1)(=O)OC1CC(N(C(C1)(C)C)O)(C)C | C26H40N2O6
reactant | di-tert-butyl peroxide | 54 ml | C(C)(C)(C)OOC(C)(C)C | C8H18O2
solvent | cyclohexane | 250 ml | C1CCCCC1 | C6H12
product | Di-(1-cyclohexyloxy-2,2,6,6-tetramethylpiperidin-4-yl) Isophthalate | C(C1=CC(C(=O)OC2CC(N(C(C2)(C)C)OC2CCCCC2)(C)C)=CC=C1)(=O)OC1CC(N(C(C1)(C)C)OC1CCCCC1)(C)C | C38H60N2O6
